US07576094B2
2,3-Dimethyl-1,4-phenylene diacetate (5.5 g) was heated up with boron trifluoride-acetic acid complex (25 mL) at 120° C. for 5 hours. The mixture was poured into ice, and extracted with ethyl acetate. The organic layer was washed with sodium bicarbonate water solution to pH about 7. Evaporation gave 5.5 g of 5-acetyl-4-hydroxy-2,3-dimethylphenyl acetate as yellow solid. Refluxing 5-acetyl-4-hydroxy-2,3-dimethylphenyl acetate (5.5 g) with cyclobutanone (1.9 g, 27 mmol) and pyrrolidine (2.1 mL, 24.8 mmol) in toluene failed to give chromanone but gave 3.4 g of 1-(2,5-dihydroxy-3,4-dimethylphenyl)-ethanone as a solid.

reactant | 5-acetyl-4-hydroxy-2,3-dimethylphenyl acetate | 5.5 g | C(C)(=O)OC1=C(C(=C(C(=C1)C(C)=O)O)C)C | C12H14O4
reactant | cyclobutanone | 27 mmol, 1.9 g | C1(CCC1)=O | C4H6O
reactant | pyrrolidine | 24.8 mmol, 2.1 mL | N1CCCC1 | C4H9N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | chromanone | C=1C=CC2=C(C1)C(=O)CCO2 | C9H8O2
